US08669271B2
4-[5-(2-Methyl-imidazol-1-yl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester
The title compound is prepared from 4-(5-bromo-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester and 2-methyl-1H-imidazole following a procedure analogous to that described in Example 69. LC (method 7): tR=1.22 min; Mass spectrum (ESI+): m/z=385 [M+H]+.

reactant | 4-(5-bromo-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)Br)O1 | C17H23BrN2O3
reactant | 2-methyl-1H-imidazole | CC=1NC=CN1 | C4H6N2
product | 4-[5-(2-Methyl-imidazol-1-yl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)N2C(=NC=C2)C)O1 | C21H28N4O3
